US07683064B2
3-(3-Bromo-phenyl)-7-tert-butyl-1H-quinolin-4-one (119 mg, 0.334 mmol), bis(pinacolato)diboron (102 mg, 0.401 mmol), and potassium acetate (98 mg, 1.0 mmol) were deposited in a sealed vessel with 2 mL of DMSO. Argon was bubbled through the mixture for 1 minute. [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (8.0 mg, 0.0098 mmol) was added. Argon was bubbled through the mixture for one minute and the lid was tightly sealed. The resulting mixture was heated at 80° C. for 18 hours prior to being partitioned between ethylacetate and water. The ethylacetate layer was washed with brine, dried over anhydrous magnesium sulfate, concentrated in vacuo, and purified by flash chromatography (gradient elution 25 to 50% ethylacetate/hexanes) to yield 7-tert-Butyl-3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-quinolin-4-one (77 mg, 0.19 mmol). MS (ESI) 404.1 (M+H)+.

reactant | 3-(3-Bromo-phenyl)-7-tert-butyl-1H-quinolin-4-one | 0.334 mmol, 119 mg | BrC=1C=C(C=CC1)C1=CNC2=CC(=CC=C2C1=O)C(C)(C)C | C19H18BrNO
reactant | bis(pinacolato)diboron | 0.401 mmol, 102 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.0 mmol, 98 mg | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.0098 mmol, 8.0 mg | ClCCl | CH2Cl2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 7-tert-Butyl-3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-quinolin-4-one | 0.19 mmol, 77 mg | C(C)(C)(C)C1=CC=C2C(C(=CNC2=C1)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)=O | C25H30BNO3
